US07910592B2
A mixture of 5-aminoindan (423 mg, 3.17 mmol), silver sulfate (990 mg, 3.17 mmol) and iodide (805 mg, 3.17 mmol) in CH3OH (20 mL) was stirred at room temperature overnight. The mixture was filtered and the solid was washed with a small amount of CH3OH. The filtrate was quenched with saturated Na2S2O3 and then diluted with water. The aqueous layer was extracted with EtOAc (3×). The combined organic layers were washed with brine (1×), dried (Na2SO4) and concentrated in vacuo. Flash chromatography (Si, hexanes/EtOAc) of the residue afforded 6-iodoindan-5-amine. LCMS calc.=260.0; found=260.0 (M+1)+. 1H NMR (500 MHz, CDCl3) δ 7.51 (s, 1H), 6.69 (s, 1H), 3.97 (br, s, 2H), 3.02-2.90 (m, 1H), 2.81 (d, J=7.1 Hz, 3H), 2.12-2.02 (m, 2H).

reactant | 5-aminoindan | 3.17 mmol, 423 mg | NC=1C=C2CCCC2=CC1 | C9H11N
reactant | iodide | 3.17 mmol, 805 mg | [I-]
solvent | CH3OH | 20 mL | CO | CH4O
catalyst | silver sulfate | 3.17 mmol, 990 mg | S(=O)(=O)([O-])[O-].[Ag+2]
product | 6-iodoindan-5-amine | IC1=C(C=C2CCCC2=C1)N | C9H10IN
